US06498165B1
Step B: 5-Amino-6-methylbenzimidazole
To a solution of 6-Methyl-5-nitrobenzimidazole (300 mg) in THF (35 mL) was added 10% Pd/C (100 mg). The flask was evacuated and charged with H2 several times. The mixture was stirred under a balloon of H2. After 24 h the flask was purged with N2. The catalyst was filtered off and washed with THF. The solvent was removed under reduced pressure giving 230 mg of the title compound.

reactant | 6-Methyl-5-nitrobenzimidazole | 300 mg | CC=1C(=CC2=C(N=CN2)C1)[N+](=O)[O-] | C8H7N3O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 5-Amino-6-methylbenzimidazole | 230 mg | NC1=CC2=C(N=CN2)C=C1C | C8H9N3
